US05081138
1-(p-aminobenzyl)-α,α-dimethyl-5-isopropyl -3-phenylsulfonylindole-2-propanoic acid
A solution of 480 mg methyl[1-(4-nitrophenyl)-α,α-dimethyl-5-isopropyl -3-phenylsulfonylindole-2-propanoate] in 45 ml ethyl acetate was heated with 100 mg Pd/C (5%) catalyst and the solution hydrogenated a 45 psi for 16 h. A further 50 mg catalyst was added and the hydrogenation continued for another 16 h. The catalyst was removed by filtration through celite and the product isolated (480 mg) after removal of solvent. Hydrolysis was achieved by treatment of the ester with 2N NaOH in 3 ml MeOH/THF 1:1. The solution was neutralized with 0.5N HCl and the product extracted with ethyl acetate 3×10 ml. The solution was dried (Na2SO4) and stripped to yield the title product, m.p. 290° decomposition.

reactant | methyl[1-(4-nitrophenyl)-α,α-dimethyl-5-isopropyl -3-phenylsulfonylindole-2-propanoate] | 480 mg | COC(C(CC=1N(C2=CC=C(C=C2C1S(=O)(=O)C1=CC=CC=C1)C(C)C)C1=CC=C(C=C1)[N+](=O)[O-])(C)C)=O | C29H30N2O6S
reactant | NaOH | 2N | [OH-].[Na+]
reactant | HCl | 0.5N | Cl | ClH
solvent | ethyl acetate | 45 ml | C(C)(=O)OCC | C4H8O2
solvent | MeOH THF | 3 ml | CO.C1CCOC1
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 1-(p-aminobenzyl)-α,α-dimethyl-5-isopropyl -3-phenylsulfonylindole-2-propanoic acid | NC1=CC=C(CN2C(=C(C3=CC(=CC=C23)C(C)C)S(=O)(=O)C2=CC=CC=C2)CC(C(=O)O)(C)C)C=C1 | C29H32N2O4S
